US07655666B2
N-[7-Difluoromethyl-6-(2-isopropyl-2H-pyrazol-3-yl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide
To a solution of 2-amino-4-difluoromethyl-5-(2-isopropyl-2H-pyrazol-3-yl)-benzoic acid methyl ester (380 mg, 1.23 mmol) in DCM (15 mL) were added Et3N (0.52 mL, 3 equiv) and then (CCl3O)2CO (261 mg, 0.7 equiv). The resulting mixture was stirred at r.t. for 1 h. The solvent was removed in vacuo and the residue was solubilized in THF. CH3SO2NHNH2 (149 mg, 1.1 equiv) was added and the mixture was stirred at r.t. for 1 h. Then, aq NaOH (1N, 1.4 mL) was added and the mixture was stirred at r.t. for 30 min. The solvent was removed in vacuo and water was added. The pH was adjusted to pH 3-4 by addition of 1N aq HCl. The aqueous phase was extracted with AcOEt (2×). The organic phases were combined, washed with brine, dried (Na2SO4) and concentrated in vacuo to afford a crude solid. This solid was dissolved in DCM (10 mL) and hexanes (10 mL) was added. The mixture was sonicated for 1 min. The resulting solid was filtered off, washed with hexanes and dried to afford the title compound as an off-white solid (305 mg, 60%). ES-MS: m/z 414.4 [M+H]+, rt 4.52 min. 1H-NMR (DMSO-d6, 400 MHz) 11.23 (bs, 1H); 7.83 (s, 1H); 7.57 (d, 1H, J=1.64 Hz); 7.55 (s, 1H); 6.80 (t, 1H, J=54.1 Hz); 6.32 (d, 1H, J=1.71 Hz); 4.12 (m, 1H); 3.16 (s, 1H); 1.31 (d, 6H, J=6.38 Hz).

reactant | 2-amino-4-difluoromethyl-5-(2-isopropyl-2H-pyrazol-3-yl)-benzoic acid methyl ester | 1.23 mmol, 380 mg | COC(C1=C(C=C(C(=C1)C=1N(N=CC1)C(C)C)C(F)F)N)=O | C15H17F2N3O2
reactant | Et3N | 0.52 mL, 3 equiv | CCN(CC)CC | C6H15N
reactant | CH3SO2NHNH2 | 149 mg, 1.1 equiv | CS(=O)(=O)NN | CH6N2O2S
reactant | NaOH | 1N, 1.4 mL | [OH-].[Na+]
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[7-Difluoromethyl-6-(2-isopropyl-2H-pyrazol-3-yl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide | 305 mg, 60% | FC(C1=C(C=C2C(N(C(NC2=C1)=O)NS(=O)(=O)C)=O)C=1N(N=CC1)C(C)C)F | C16H17F2N5O4S
